US08685991B2
Part A. Preparation of 5-bromo-1-(1,3-dithian-2-yl)-2,3-dihydro-1H-inden-1-ol
A solution of 1,3-dithiane (11.96 g, 99 mmol) in anhydrous tetrahydrofuran (100 mL) at −30° C. was treated dropwise over 10 min with n-butyllithium (2.5M in hexanes, 38.4 mL, 96 mmol) followed by stirring at −15° C. for 2 h. The solution was then treated with a solution of 5-bromo-2,3-dihydro-1H-inden-1-one (15 g, 71.1 mmol) in anhydrous tetrahydrofuran (250 mL) over 1 h, maintaining the temperature between −9° C. and 2° C. The mixture was then allowed to set in the refrigerator at 2-8° C. for 18 h. The solution was concentrated in vacuo to afford a maroon oil, which was treated with 1 N hydrochloric acid solution and extracted with ether. The ether layer was extracted with saturated sodium chloride solution, dried (Na2SO4) and concentrated in vacuo to afford an amber oil (23.55 g).

reactant | 1,3-dithiane | 99 mmol, 11.96 g | S1CSCCC1 | C4H8S2
reactant | n-butyllithium | 96 mmol, 2.5M, 38.4 mL | C(CCC)[Li]
reactant | 5-bromo-2,3-dihydro-1H-inden-1-one | 71.1 mmol, 15 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 5-bromo-1-(1,3-dithian-2-yl)-2,3-dihydro-1H-inden-1-ol | 23.55 g | BrC=1C=C2CCC(C2=CC1)(O)C1SCCCS1 | C13H15BrOS2
